US08664226B2
Production of 5-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-6-butyl-2-methyl-3-[5-(4-oxocyclohexyloxy)pyrimidin-2-yl]pyrimidin-4 (3H)-one
To the dichloromethane (0.5 mL) solution of 5-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-6-butyl-3-[5-(4-hydroxycyclohexyloxy)pyrimidin-2-yl]-2-methylpyrimidin-4 (3H)-one (10 mg, 0.017 mmol), Dess-Martin reagent (11 mg, 0.026 mmol) was added and stirred at room temperature for 1 hr. Dess-Martin reagent (11 mg, 0.026 mmol) was added, and further stirred at room temperature overnight. The reaction mixture was added water and extracted with chloroform. The organic layer was combined, washed with water and brine, dried over anhydrous sodium sulfate, and concentrated in vacuo. The resulting residues were subjected to silica gel column chromatography (chloroform:methanol=5:1) to obtain the target compound.

reactant | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
reactant | 5-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-6-butyl-3-[5-(4-hydroxycyclohexyloxy)pyrimidin-2-yl]-2-methylpyrimidin-4 (3H)-one | 0.017 mmol, 10 mg | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C(=NC1CCCC)C)C1=NC=C(C=N1)OC1CCC(CC1)O)=O | C33H36N8O3
reactant | Dess-Martin reagent | 0.026 mmol, 11 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Dess-Martin reagent | 0.026 mmol, 11 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | water | O | H2O
product | 5-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-6-butyl-2-methyl-3-[5-(4-oxocyclohexyloxy)pyrimidin-2-yl]pyrimidin-4 (3H)-one | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C(=NC1CCCC)C)C1=NC=C(C=N1)OC1CCC(CC1)=O)=O | C33H34N8O3
